US09120773B2
In a stream of argon, 0.45 g (0.85 mmol) of 2-(3,5-dichlorophenyl)-4,6-bis[4-(3-pyridyl)phenyl]pyrimidine, 0.37 g (1.87 mmol) of m-biphenylboronic acid, 0.39 g (1.86 mmol) of potassium phosphate, 8 mg (0.034 mmol) of palladium acetate and 32 mg (0.068 mmol) of 2-dicyclohexylphosphino-2′,4′,6′-triisipropylbiphenyl were suspended in 20 mL of tetrahydrofuran, and the obtained suspension was heated under reflux for 66 hours. The reaction mixture was cooled to room temperature, and was then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The thus-obtained crude product was purified by silica gel chromatography using chloroform as an eluent to give 0.42 g of the target 4,6-bis[4-(3-pyridyl)phenyl]-2-(1,1′:3′,1″:3″,1″′:3″′,1″″-quinquephenyl-5″-yl)pyrimidine as a white solid (yield: 640).

reactant | 2-(3,5-dichlorophenyl)-4,6-bis[4-(3-pyridyl)phenyl]pyrimidine | 0.85 mmol, 0.45 g | ClC=1C=C(C=C(C1)Cl)C1=NC(=CC(=N1)C1=CC=C(C=C1)C=1C=NC=CC1)C1=CC=C(C=C1)C=1C=NC=CC1 | C32H20Cl2N4
reactant | m-biphenylboronic acid | 1.87 mmol, 0.37 g | C=1(C(=CC=CC1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | potassium phosphate | 1.86 mmol, 0.39 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | palladium acetate | 0.034 mmol, 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4,6-bis[4-(3-pyridyl)phenyl]-2-(1,1′:3′,1″:3″,1″′:3″′,1″″-quinquephenyl-5″-yl)pyrimidine | N1=CC(=CC=C1)C1=CC=C(C=C1)C1=NC(=NC(=C1)C1=CC=C(C=C1)C=1C=NC=CC1)C=1C=C(C=C(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C1=CC(=CC=C1)C1=CC=CC=C1 | C56H38N4
